US04134752
2-Chloroethanesulfinyl chloride (16.2 w), prepared as in Example I was dissolved in dry ether (130 v) and the solution was cooled to -15°. Normal butanol was added dropwise under a nitrogen atmosphere to the cooled solution. Upon completion of the addition period the reaction mixture was allowed to warm to ambient temperatures and the solvent was removed by distillation in a vacuum to yield a colorless liquid, butyl 2-chloroethanesulfinate (18.5 w).

reactant | 2-Chloroethanesulfinyl chloride | ClCCS(=O)Cl | C2H4Cl2OS
reactant | Normal butanol | C(CCC)O | C4H10O
solvent | ether | CCOCC | C4H10O
product | butyl 2-chloroethanesulfinate | ClCCS(=O)OCCCC | C6H13ClO2S
